US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-quinolin-6-yl-amino]-N-(3-hydroxy-propyl)-N-pyridin-2-ylmethyl-acetamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-quinolin-6-yl-amino]-acetic acid with 3-[(pyridin-2-ylmethyl)-amino]-propan-1-ol

reactant | [(4-tert-butyl-benzenesulfonyl)-quinolin-6-yl-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C=1C=C2C=CC=NC2=CC1)CC(=O)O | C21H22N2O4S
reactant | 3-[(pyridin-2-ylmethyl)-amino]-propan-1-ol | N1=C(C=CC=C1)CNCCCO | C9H14N2O
product | 2-[(4-tert-Butyl-benzenesulfonyl)-quinolin-6-yl-amino]-N-(3-hydroxy-propyl)-N-pyridin-2-ylmethyl-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CC1=NC=CC=C1)CCCO)C=1C=C2C=CC=NC2=CC1 | C30H34N4O4S
